US07030116B2
N-[(S)-1-(5-Ethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-4-morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyramide
It is similarly prepared according to general procedure given for Example 2 above but using 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid and (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol.

reactant | 4-Morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol | NC([C@H](O)C1=NOC(=N1)CC)CC | C8H15N3O2
product | N-[(S)-1-(5-Ethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-4-morpholin-4-yl-4-oxo-2-phenylmethanesulfonylmethyl-butyramide | C(C)C1=NC(=NO1)C(=O)[C@H](CC)NC(C(CC(=O)N1CCOCC1)CS(=O)(=O)CC1=CC=CC=C1)=O | C24H32N4O7S
